US04666502
N-(2,4-dimethyl-thien-3-yl)-acetoxyacetamide
To 12.7 g (0.1 mol) of 2,4-dimethyl-3-aminothiophene, 13.8 g (0.1 mol) of K2CO3, 20 ml of water and 150 ml of methylene chloride are added dropwise at ambient temperature 15 g (0.11 mol) of acetoxyacetyl chloride.

reactant | 2,4-dimethyl-3-aminothiophene | 0.1 mol, 12.7 g | CC=1SC=C(C1N)C | C6H9NS
reactant | K2CO3 | 0.1 mol, 13.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 20 ml | O | H2O
reactant | acetoxyacetyl chloride | 0.11 mol, 15 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(2,4-dimethyl-thien-3-yl)-acetoxyacetamide | CC=1SC=C(C1NC(COC(C)=O)=O)C | C10H13NO3S
